US07786115B2
To a stirred solution of methyl 4-methyl-3-[7-(4-methylpiperazin-1-yl)-1-oxoisoquinolin-2(1H)-yl]benzoate (272 mg) in methanol was added 1N NaOH solution (0.85 ml) and the reaction mixture was stirred at 65° C. for 30 minutes and then neutralized with 1N HCl. After cooling to room temperature the resulting precipitate was collected by filtration and washed with water, ethyl acetate, methanol and then air-dried to yield 4-methyl-3-[7-(4-methylpiperazin-1-yl)-1-oxoisoquinolin-2(1H)-yl]benzoic acid (166 mg) as a pale yellow solid; NMR Spectrum: (DMSOd6) 2.12 (s, 3H), 2.25 (s, 3H), 2.50 (m, 4H), 3.27 (m, 4H), 6.64 (d, 1H), 7.12 (d, 1H), 7.56 (m, 2H), 7.60 (s, 1H), 7.63 (d, 1H), 7.75 (s, 1H), 7.94 (d, 1H); Mass Spectrum: M+H+ 378.

reactant | methyl 4-methyl-3-[7-(4-methylpiperazin-1-yl)-1-oxoisoquinolin-2(1H)-yl]benzoate | 272 mg | CC1=C(C=C(C(=O)OC)C=C1)N1C(C2=CC(=CC=C2C=C1)N1CCN(CC1)C)=O | C23H25N3O3
reactant | NaOH | 1N, 0.85 ml | [OH-].[Na+]
reactant | HCl | 1N | Cl | ClH
solvent | methanol | CO | CH4O
product | 4-methyl-3-[7-(4-methylpiperazin-1-yl)-1-oxoisoquinolin-2(1H)-yl]benzoic acid | 166 mg | CC1=C(C=C(C(=O)O)C=C1)N1C(C2=CC(=CC=C2C=C1)N1CCN(CC1)C)=O | C22H23N3O3
